US07932271B2
[5-Chloro-4-[(4-chloro-3-methoxyphenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]amine
To a dichloromethane (5 ml) solution of t-butyl[5-chloro-4-[(4-chloro-3-methoxyphenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]carbamate (300 mg, 0.54 mmol) was added trifluoroacetic acid (5 ml) at 0° C. The resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure. The residue thus obtained was dissolved in dichloromethane. The resulting solution was washed with a 1N aqueous sodium hydroxide solution. The organic layer was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was washed with diethyl ether and then collected by filtration to give the title compound (208 mg, 0.45 mmol, 84%) as a white solid.

reactant | t-butyl[5-chloro-4-[(4-chloro-3-methoxyphenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]carbamate | 0.54 mmol, 300 mg | C(C)(C)(C)OC(NC1=NC=C(C(=C1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC(=C(C=C1)Cl)OC)Cl)=O | C24H22Cl2F2N2O5S
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | [5-Chloro-4-[(4-chloro-3-methoxyphenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]amine | 0.45 mmol, 208 mg, 84% | ClC=1C(=CC(=NC1)N)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC(=C(C=C1)Cl)OC | C19H14Cl2F2N2O3S
